US09388161B2
Balloon filled hydrogen was charged into a nitrogen purged suspension of (S)-methyl 6-(1-(1-benzylpiperidin-4-yl)-5-fluoro-1H-pyrazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (15.0 mg, 0.028 mmol) and 20% palladium hydroxide on carbon (40 mg, 0.285 mmol) in methanol (10 mL). The reaction flask was backfilled with hydrogen 3 times. The reaction solution was then stirred under a hydrogen atmosphere for 2 hours. The flask was purged with nitrogen, and the reaction mixture was filtered through of Celite and the bed of Celite was washed with ethyl acetate (10 mL). The filtered solvent was then concentrated in vacuo. The crude product was added directly to a plug of silica gel and eluted with 30% ethyl acetate in methanol to afford methyl (S)-5-cyclobutoxy-6-(5-fluoro-1-(piperidin-4-yl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (7.2 mg, 58%) as an off-white solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.09 (d, J=6.45 Hz, 3H), 1.21-1.30 (m, 2H), 1.42-1.57 (m, 1H), 1.76-1.88 (m, 3H), 1.89-2.01 (m, 5H), 2.34-2.43 (m, 2H), 2.53-2.61 (m, 1H), 2.71-2.85 (m, 2H), 3.03 (br d, J=12.31 Hz, 1H), 3.13-3.21 (m, 1H), 3.68 (s, 3H), 3.95-4.05 (m, 1H), 4.15-4.30 (m, 1H), 4.41-4.52 (m, 1H), 7.14 (d, J=8.15 Hz, 1H), 7.29 (d, J=8.79 Hz, 1H), 7.61 (s, 1H). MS (ESI, pos. ion) m/z 443 [M+H]+.

reactant | hydrogen | [H][H] | H2
reactant | (S)-methyl 6-(1-(1-benzylpiperidin-4-yl)-5-fluoro-1H-pyrazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.028 mmol, 15.0 mg | C(C1=CC=CC=C1)N1CCC(CC1)N1N=CC(=C1F)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1 | C31H37FN4O3
reactant | hydrogen 3 | [3H][3H] | H2
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.285 mmol, 40 mg | [OH-].[OH-].[Pd+2]
product | methyl (S)-5-cyclobutoxy-6-(5-fluoro-1-(piperidin-4-yl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 7.2 mg, 58% | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1C=1C=NN(C1F)C1CCNCC1)C(=O)OC)C | C24H31FN4O3
